US07989462B2
(2-Dimethylamino-6-nitroquinazolin-4-yl)-(4-methoxyphenyl)-methylamine
A solution of (2-chloro-6-nitroquinazolin-4-yl)-(4-methoxyphenyl)-methylamine (48 mg, 0.14 mmol) in 2 mL of dimethylamine in methanol (2M, 25 mmol) was heated overnight in a seal tube at 70° C. for 48 h. The reaction mixture was cooled to room temperature and concentrated under vacuum. The residue was purified by chromatography (15% ethyl acetate/hexane) to give the title compound (39 mg, 79%). 1H NMR (CDCl3): 8.08 (dd, J=9.3, 2.4, 1H), 7.71 (d, J=2.4, 1H), 7.35 (d, J=9.3, 1H), 7.14 (m, 2H), 6.97 (2H), 3.85 (s, 3H), 3.55 (s, 3H), 3.33 (s, 6H).

reactant | (2-chloro-6-nitroquinazolin-4-yl)-(4-methoxyphenyl)-methylamine | 0.14 mmol, 48 mg | ClC1=NC2=CC=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)OC)[N+](=O)[O-] | C16H13ClN4O3
reactant | methanol | 25 mmol, 2M | CO | CH4O
reactant | dimethylamine | 2 mL | CNC | C2H7N
product | (2-Dimethylamino-6-nitroquinazolin-4-yl)-(4-methoxyphenyl)-methylamine | 39 mg, 79% | CN(C1=NC2=CC=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)OC)[N+](=O)[O-])C | C18H19N5O3
